US06706751B2
In analogy to example 1.4, 6-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester and 1,4-dibromobutane were converted to yield 6-(4-Bromo-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester as colorless oil, MS: 438 (MH+, 1Br, 1Cl);

reactant | 6-Hydroxy-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)O | C16H14ClNO3
reactant | 1,4-dibromobutane | BrCCCCBr | C4H8Br2
product | 6-(4-Bromo-butoxy)-3,4-dihydro-2H-quinoline-1-carboxylic acid 4-chloro-phenyl ester | ClC1=CC=C(C=C1)OC(=O)N1CCCC2=CC(=CC=C12)OCCCCBr | C20H21BrClNO3
